US07202364B2
To a flask containing 35 mL of concentrated H2SO4 is added 3.31 g NaNO2 (47.9 mmol) slowly over 15 minutes. The mixture is stirred an additional 15 minutes before being cooled to room temperature in a cold water bath. A solution of 8.14 g 3-amino-2-naphthoic acid (43.5 mmol) in 65 mL HOAc is added slowly dropwise, keeping the reaction temperature below 40° C. The mixture is stirred for 30 minutes and then poured carefully into an ice-cold solution of 10.14 g CuCl (102.2 mmol) in 65 mL of concentrated HCl. The mixture is heated to 80° C. and stirred for 30 minutes before adding 200 mL of H2O. After stirring an additional 15 minutes, the mixture is filtered and washed with H2O to give a gray solid. The solid is dissolved in 500 mL of CH2Cl2 and the solution is washed 2 times with 100 mL saturated aqueous brine and dried over Na2SO4. Evaporation of the solvents gives a solid that is dried in vacuo to give 3-chloro-2-naphthoic acid as a brown solid.

reactant | H2SO4 | 35 mL | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 47.9 mmol, 3.31 g | N(=O)[O-].[Na+]
reactant | 3-amino-2-naphthoic acid | 43.5 mmol, 8.14 g | NC=1C(=CC2=CC=CC=C2C1)C(=O)O | C11H9NO2
reactant | H2O | 200 mL | O | H2O
reactant | HCl | 65 mL | Cl | ClH
solvent | HOAc | 65 mL | CC(=O)O | C2H4O2
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | CuCl | 102.2 mmol, 10.14 g | Cl[Cu]
product | 3-chloro-2-naphthoic acid | ClC=1C(=CC2=CC=CC=C2C1)C(=O)O | C11H7ClO2
